US04472289
Borated Mixed Glycerol Monooleate/1.2-Hexadecanediol
Approximately 92 g of glycerol monooleate (commercially available as 60/40 mixture of glycerol monoleate/glycerol diooleate), 52 g of 1,2-hexadecanediol and 100 g of toluene were charged to a reactor equipped as described in Example 1. The contents were heated to liquify and 11 g of boric acid were added. The mixture was further heated up to 150° C. over a period of 6 hours until water evolution stopped. Approximately 9 ml. of water collected. The solvent was removed by vacuum distillation at 150° C. and the product was filtered at about 100° C. through diatomaceous earth. The product became a waxy solid after cooling.

reactant | glycerol monooleate | 92 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC(O)CO | C21H40O4
reactant | glycerol | OCC(O)CO | C3H8O3
reactant | 1,2-hexadecanediol | 52 g | C(C(CCCCCCCCCCCCCC)O)O | C16H34O2
reactant | boric acid | 11 g | B(O)(O)O | BH3O3
solvent | water | O | H2O
solvent | toluene | 100 g | C1(=CC=CC=C1)C | C7H8
product | Glycerol Monooleate 1.2-Hexadecanediol | C(CCCCCCC\C=C/CCCCCCCC)(=O)OCC(O)CO.C(C(CCCCCCCCCCCCCC)O)O | InChI=1S/C21H40O4.C16H34O2/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-21(24)25-19-20(23)18-22;1-2-3-4-5-6-7-8-9-10-11-12-13-14-16(18)15-17/h9-10,20,22-23H,2-8,11-19H2,1H3;16-18H,2-15H2,1H3/b10-9-;
